US06953790B2
Step A. Ethyl 4-(pyridin-4-ylamino)piperidine-1-carboxylate
A solution of ethyl 4-aminopiperidine-1-carboxylate (2.20 g, 12.7 mmol), 4-bromopyridine (3.47 g, 17.8 mmol), sodium t-butoxide (4.54 g, 47.2 mmol), 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl (0.398 g, 0.639 mmol) and palladium acetate (0.143 g, 0.639 mmol) in toluene (40 mL) was heated at 60° C. overnight. The reaction was cooled and partitioned between ethyl acetate and water. The aqueous layer was washed 3 times with methylene chloride, and the combined organic layers dried over sodium sulfate. The crude product was purified by chromatography (silica gel, 0 to 10% {5% ammonium hydroxide in methanol} in methylene chloride gradient elution), which gave the title compound (1.3 g, 41% yield).

reactant | ethyl 4-aminopiperidine-1-carboxylate | 12.7 mmol, 2.20 g | NC1CCN(CC1)C(=O)OCC | C8H16N2O2
reactant | 4-bromopyridine | 17.8 mmol, 3.47 g | BrC1=CC=NC=C1 | C5H4BrN
reactant | sodium t-butoxide | 47.2 mmol, 4.54 g | CC(C)([O-])C.[Na+]
reactant | 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 0.639 mmol, 0.398 g | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
catalyst | palladium acetate | 0.639 mmol, 0.143 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | Ethyl 4-(pyridin-4-ylamino)piperidine-1-carboxylate | 1.3 g, 41% yield | N1=CC=C(C=C1)NC1CCN(CC1)C(=O)OCC | C13H19N3O2
